US04622327
Preparation of 1-(chloromethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydroiodide
5.1 g (0.015 mole) of 1-[bis(chloromethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride are suspended in 24 ml of acetone. 6.0 ml of methanol containing 10% (0.015 mole) of sodium hydroxide are added to the suspension, whereupon the solution is filtered after 5 minutes. 2.3 g (0.0153 mole) of sodium iodide are added to the filtrate, which is allowed to stand for two days and the crystals separated out are filtered out by glass filter. Crystallization from a mixture of acetone and ether yields the aimed compound in the form of pale-beige crystals with a melting point of 202° to 205° C.

reactant | 1-[bis(chloromethyl)-methyl]-6,7-dimethoxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 0.015 mole, 5.1 g | Cl.ClCC(C1NCCC2=CC(=C(C=C12)OC)OC)CCl
reactant | methanol | 0.015 mole, 6.0 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium iodide | 0.0153 mole, 2.3 g | [I-].[Na+]
solvent | acetone | 24 ml | CC(=O)C | C3H6O
product | 1-(chloromethyl)-7,8-dimethoxy-1,4,5,9b-tetrahydro-2H-azeto[2,1-a]isoquinoline hydroiodide | I.ClCC1CN2C1C1=CC(=C(C=C1CC2)OC)OC | InChI=1S/C14H18ClNO2.HI/c1-17-12-5-9-3-4-16-8-10(7-15)14(16)11(9)6-13(12)18-2;/h5-6,10,14H,3-4,7-8H2,1-2H3;1H
